US04497805
Propyl 2β,3α-dihydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate hydrochloride solution
Propyl 2β,3α-dihydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate (40 mg) was dissolved in 0.0987M HCl solution (0.88 ml), made up to 8 g with water and filtered. This gave a 0.5% solution with respect to free base, pH 3.8.

reactant | Propyl 2β,3α-dihydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate | 40 mg | O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(C1)C)NCCC(C)C)C(=O)OCCC)O | C28H49NO4
reactant | water | O | H2O
reactant | HCl | 0.0987M, 0.88 ml | Cl | ClH
product | Propyl 2β,3α-dihydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate hydrochloride | 0.5% | Cl.O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(C1)C)NCCC(C)C)C(=O)OCCC)O | InChI=1S/C28H49NO4.ClH/c1-6-13-33-26(32)21-10-9-20-19-8-7-18-14-23(30)24(31)16-27(18,4)25(19)22(15-28(20,21)5)29-12-11-17(2)3;/h17-25,29-31H,6-16H2,1-5H3;1H/t18-,19-,20-,21+,22+,23-,24-,25+,27-,28-;/m0./s1
